US06858651B2
In analogy to example 11.9, trans-[4-(4-Bromo-butoxy)-cyclohexyl]-methyl-amine hydrochloride and 4-nitro-benzenesulfonyl chloride (with 2.1 eq N,N-diisopropylethylamine) were reacted to yield trans-N-[4-(4-Bromo-butoxy)-cyclohexyl]-N-methyl-4-nitro-benzenesulfonamide, MS: 451 (MH+).

reactant | trans-[4-(4-Bromo-butoxy)-cyclohexyl]-methyl-amine hydrochloride | Cl.BrCCCCO[C@@H]1CC[C@H](CC1)NC
reactant | 4-nitro-benzenesulfonyl chloride | 2.1 eq | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
product | trans-N-[4-(4-Bromo-butoxy)-cyclohexyl]-N-methyl-4-nitro-benzenesulfonamide | BrCCCCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C17H25BrN2O5S
